US07232834B2
A mixture of 0.57 g of methyl (3R,4R)-4-[3-oxo-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate obtained as described in example 1, 0.462 g of 2-(2-bromoethylsulfanyl)-1,4-difluorobenzene, 0.253 g of potassium iodide and 1.05 g of potassium carbonate in 25 cm3 of acetonitrile is heated with stirring and under an inert atmosphere for 20 hours at a temperature in the region of 75° C. After cooling to a temperature in the region of 20° C., the reaction medium is filtered and the insoluble material is washed with 2 times 10 cm3 of acetonitrile. The filtrate is evaporated under reduced pressure (2 kPa) at a temperature in the region of 40° C. The evaporation residue is taken up with 50 cm3 of distilled water and 100 cm3 of ethyl acetate. The organic phase is washed with 3 times 30 cm3 of distilled water and 2 times 50 cm3 of a saturated aqueous sodium chloride solution, dried over magnesium sulfate and evaporated according to the conditions mentioned above. The oil obtained is purified by chromatography on a column of silica gel (particle size 70–200 μm; diameter 2.5 cm), eluting with a mixture of dichloromethane-methanol (9/10 by volume) and collecting fractions of 10 cm3. The fractions containing the expected product are pooled and then evaporated under reduced pressure (2 kPa) at a temperature in the region of 40° C. 0.4 g of methyl (3R,4R)-4-[3-oxo-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2,5-difluorophenylsulfanyl)ethyl]-piperidine-3-carboxylate, in the form of an orange-colored viscous oil, is obtained.

reactant | methyl (3R,4R)-4-[3-oxo-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate | 0.57 g | O=C(CC[C@H]1[C@H](CNCC1)C(=O)OC)C1=C(C=NC2=CC=C(C=C12)OC)F | C20H23FN2O4
reactant | 2-(2-bromoethylsulfanyl)-1,4-difluorobenzene | 0.462 g | BrCCSC1=C(C=CC(=C1)F)F | C8H7BrF2S
reactant | potassium iodide | 0.253 g | [I-].[K+]
reactant | potassium carbonate | 1.05 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 25 cm3 | C(C)#N | C2H3N
product | methyl (3R,4R)-4-[3-oxo-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2,5-difluorophenylsulfanyl)ethyl]-piperidine-3-carboxylate | 0.4 g | O=C(CC[C@H]1[C@H](CN(CC1)CCSC1=C(C=CC(=C1)F)F)C(=O)OC)C1=C(C=NC2=CC=C(C=C12)OC)F | C28H29F3N2O4S
